US04096147
2,3,4,4a,6,7,11b,12,13,13a-Decahydro-1H-dibenzo[a,f]-quinolizin-13-ol
The following products are obtained when in Example 1 (A) appropriate amounts of the ketone derivatives listed below are substituted for 1,2,3,4,4a,6,7,11b,12,13a-decahydrodibenzo[a,f]quinolizin-13-one, the residual oil is additionally treated with excess ethereal hydrochloric acid and the precipitate is recrystallized from butanonemethanol.

reactant | 1,2,3,4,4a,6,7,11b,12,13a-decahydrodibenzo[a,f]quinolizin-13-one | C1CCCC2N3CCC4=C(C3CC(C21)=O)C=CC=C4 | C17H21NO
reactant | hydrochloric acid | Cl | ClH
product | 2,3,4,4a,6,7,11b,12,13,13a-Decahydro-1H-dibenzo[a,f]-quinolizin-13-ol | C1CCCC2N3CCC4=C(C3CC(C21)O)C=CC=C4 | C17H23NO
